US07049313B2
4-Hydroxy-phenothiazine-10-carboxylic acid tert-butyl ester
To a solution of 10H-Phenothiazin-4-ol (0.77 g, 3.58 mmol) in anhydrous pyridine (10 ml) was added di-tertiary butyl dicarbonate (3.12 g, 14.31 mmol) in a single portion. The solution was heated to 80° C. and stirred under a nitrogen atmosphere for 60 minutes before being allowed to cool to room temperature and treated with water (20 ml) and extracted with EtOAc (2×30 ml). The organic layers were then washed with water (20 ml), dried using MgSO4, filtered and concentrated in vacuo to give an amber oil. The crude residue was treated with MeOH (15 ml) and solid NaOH (0.65 g, 16.25 mmol). The mixture was heated to 80° C. for 60 minutes then cooled to room temperature and neutralised to pH7 with 1M HCl solution. The resulting suspension was then filtered and dried to give the title compound as a beige solid (1.13 g, 100%) that was used without further purification. m/z (LC-MS, ESP): 315 [M−H]−, R/T=4.72 mins.

reactant | 10H-Phenothiazin-4-ol | 3.58 mmol, 0.77 g | C1=CC=C(C=2SC3=CC=CC=C3NC12)O | C12H9NOS
reactant | di-tertiary butyl dicarbonate | 14.31 mmol, 3.12 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 16.25 mmol, 0.65 g | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | MeOH | 15 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 4-Hydroxy-phenothiazine-10-carboxylic acid tert-butyl ester | 1.13 g, 100% | C(C)(C)(C)OC(=O)N1C2=CC=CC=C2SC=2C(=CC=CC12)O | C17H17NO3S
